US04017621
To a suspension of lithium aluminium hydride (0.08 g) in tetrahydrofuran was added a solution of 5-(4-acetyl-2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine (0.34 g) in tetrahydrofuran under ice-cooling, and the resulting mixture was stirred under reflux for 1 hour. the reaction mixture was cooled, admixed with water and extracted with benzene. The benzene extract was washed with water, dried over anhydrous sodium sulfate and evaporated to afford 5-(4-ethyl-2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine as an oily substance. M.P. 210°-211° C (oxalate).

reactant | lithium aluminium hydride | 0.08 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-(4-acetyl-2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine | 0.34 g | C(C)(=O)N1CC(OCC1)CN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C21H24N2O2
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(4-ethyl-2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine | C(C)N1CC(OCC1)CN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C21H26N2O
